US04228168
5 g of N-ethyl-tryptamine (i.e., 3-(2-ethylaminoethyl)-indole) were dissolved in 100 ml of absolute benzene, and a solution of 4.70 g of α-keto-adipic acid in 50 ml of absolute dioxane was added thereto at room temperature. The mixture was refluxed for 20 hours. After the reaction was completed, the mixture was evaporated to remove solvent. The residue thus obtained was recrystallized from ethanol, whereby 3.51 g of 1,2,3,4-tetrahydro-1-carboxy-1-(3-carboxypropyl)-2-ethyl-β-carboline were obtained. Yield: 38.0%

reactant | N-ethyl-tryptamine | 5 g | C(C)NCCC1=CNC2=CC=CC=C12 | C12H16N2
reactant | α-keto-adipic acid | 4.70 g | O=C(C(=O)O)CCCC(=O)O | C6H8O5
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1,2,3,4-tetrahydro-1-carboxy-1-(3-carboxypropyl)-2-ethyl-β-carboline | 3.51 g, Yield: 38.0% | C(=O)(O)C1(N(CCC=2C3=CC=CC=C3NC12)CC)CCCC(=O)O | C18H22N2O4
